US06511993B1
1-Isopropylsulphonyl-piperidin-4-one ethylene ketal
Isopropylsulphonyl chloride (5.6 ml, 50 mmol) was added dropwise to an ice-cooled solution of 4-piperidone ethylene ketal (6.4 ml, 50 mmol) and triethylamine (7.7 ml, 55 mmol) in dichloromethane (100 ml), and the reaction stirred at room temperature for 3 hours. The mixture was washed with water (2×), dried (MgSO4), filtered and evaporated in vacuo. The residue was crystallised from ether/pentane to afford the title compound as a solid, (10.55 g, 85%).

reactant | Isopropylsulphonyl chloride | 50 mmol, 5.6 ml | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | 4-piperidone ethylene ketal | 50 mmol, 6.4 ml | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | triethylamine | 55 mmol, 7.7 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Isopropylsulphonyl-piperidin-4-one ethylene ketal | 10.55 g, 85% | C1COC2(CCN(CC2)S(=O)(=O)C(C)C)O1 | C10H19NO4S
